US09212155B2
To a chilled (0° C.) solution of lithium bis(trimethylsilyl)amide (1.0 M, 56 mL) was dropwise added a solution of trimethylphosphonoacetate, keeping the temperature below 10° C. The solution was then allowed to warm to room temperature and stirred for an additional five minutes after which a solution of p-isobutylacetophenone in THF (25 mL) was added in one portion. The solution was slowly heated to 65° C. and allowed to reflux for thirty hours. The solution was cooled to room temperature then diluted with a 10% NH4Cl solution (100 mL), and extracted with ethyl acetate (2×100 mL). The organic layers were combined and dried over MgSO4, filtered, and filtrate concentrated to a white solid which was recrystallized from hexane/ethyl acetate to give 5.93 grams of 3-(4-isobutylphenyl)but-2-enoic acid methyl ester intermediate (89.9% yield).

reactant | lithium bis(trimethylsilyl)amide | 1.0 M, 56 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | trimethylphosphonoacetate | CC(C)(C(=O)[O-])P(=O)(O)OC
reactant | p-isobutylacetophenone | C(C(C)C)C1=CC=C(C=C1)C(C)=O | C12H16O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | NH4Cl | 100 mL | [NH4+].[Cl-]
product | 3-(4-isobutylphenyl)but-2-enoic acid methyl ester | 5.93 grams, 89.9% yield | COC(C=C(C)C1=CC=C(C=C1)CC(C)C)=O | C15H20O2
